US08729263B2
Step 1: 3-(Benzyloxy)-6-bromoisoquinoline
To a 25 mL round-bottomed flask containing 6-bromoisoquinolin-3-ol (500 mg, 2.23 mmol) was added TEA (0.467 mL, 3.35 mmol) and benzyl bromide (0.319 mL, 2.68 mmol) in DMF (10 mL) to give a brown solution. The reaction was heated to 80° C. overnight. After cooling to RT, the reaction mixture was concentrated in vacuo, and taken up in DCM and water. The water was extracted with DCM (2×), and the combined organic fractions were washed with brine, dried over MgSO4, filtered, and concentrated in vacuo. The residue was purify by flash column chromatography (10-30-50% EtOAc/Heptanes), providing the title compound (132 mg, 0.420 mmol, 19% yield). M+1=316.0. 1H NMR (400 MHz, CHLOROFORM-d) δ 8.92 (s, 1H), 7.85 (d, J=1.25 Hz, 1H), 7.74 (d, J=8.78 Hz, 1H), 7.31-7.52 (m, 6H), 6.99 (s, 1H), 5.48 (s, 2H).

reactant | 6-bromoisoquinolin-3-ol | 2.23 mmol, 500 mg | BrC=1C=C2C=C(N=CC2=CC1)O | C9H6BrNO
reactant | benzyl bromide | 2.68 mmol, 0.319 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-(Benzyloxy)-6-bromoisoquinoline | 0.420 mmol, 132 mg, 19% yield | C(C1=CC=CC=C1)OC=1N=CC2=CC=C(C=C2C1)Br | C16H12BrNO
